US03978069
13 g (0.05 mole) diphenyl-chloroacetic acid methyl ester (b.p. 140°C/0.1 mm Hg, prepared from diphenyl-chloroacetic acid chloride and methanol according to Ber. 22, 1537) are heated with 10 g imidazole in 100 ml acetonitrile at boiling temperature for 18 hours. After distilling off the solvent in a vacuum, 50 ml of water are added and the mixture is extracted with methylene chloride. After drying over sodium sulphate, the solvent is distilled off in a vacuum and the residue recrystallized from a little ethyl acetate. The diphenyl-imidazolyl-acetic acid methyl ester is thus obtained in the form of colourless crystals of m.p. 155°C (with decomposition).

reactant | diphenyl-chloroacetic acid methyl ester | 0.05 mole, 13 g | COC(C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13ClO2
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl-imidazolyl-acetic acid methyl ester | COC(C(C=1NC=CN1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H16N2O2
